US04600429
Chloromethanephosphonic acid (6.5 g, 49.8 mmoles) and 1.6-diaminohexane (34.8 g, 300 mmoles) were dissolved in water (130 cm3) and heated under reflux for 20 hours. The water was removed and ethanol (250 cm3) was added to the solid residue. The phosphonic acid was filtered off and dried. The crude yield was 10.4 g (92%). A sample was purified by recrystallization from water/ethanol to give N-(6-aminohexyl)-aminomethanephosphonic acid monohydrate as a fine white crystalline solid having a melting point of 235° C.

reactant | Chloromethanephosphonic acid | 49.8 mmoles, 6.5 g | ClCP(O)(=O)O | CH4ClO3P
reactant | 1.6-diaminohexane | 300 mmoles, 34.8 g | NCCCCCCN | C6H16N2
solvent | water | 130 cm3 | O | H2O
product | N-(6-aminohexyl)-aminomethanephosphonic acid monohydrate | O.NCCCCCCNCP(O)(=O)O | InChI=1S/C7H19N2O3P.H2O/c8-5-3-1-2-4-6-9-7-13(10,11)12;/h9H,1-8H2,(H2,10,11,12);1H2
